US07615568B2
Methyl 2-(2-tert-butoxycarbonylaminoethoxy)-4-(methyl-thio)benzoate was prepared (12.6 g, 76%) as described in Example 1-D from methyl 2-hyroxy-4-(methylthio)benzoate and 2-tert-butoxycarbonylaminoethanol.

reactant | methyl 2-hyroxy-4-(methylthio)benzoate | OC1=C(C(=O)OC)C=CC(=C1)SC | C9H10O3S
reactant | 2-tert-butoxycarbonylaminoethanol | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | Methyl 2-(2-tert-butoxycarbonylaminoethoxy)-4-(methyl-thio)benzoate | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)OC)C=CC(=C1)SC | C16H23NO5S
